data/mechanism_extracts/catalysts-13-00631-v2/catalysts-13-00631-v2.json
{"doi": "catalysts-13-00631-v2", "journal": "catalysts-13-00631-v2", "is_review": false, "rxn_class_summary": "Electrochemical thiocyanation/cyclization cascade of N-(2-alkenylaryl)benzamides with NH4SCN to form 4-(thiocyanatomethyl)-4H-benzo[d][1,3]oxazines via radical-polar crossover.", "mechanism_family": ["radical_anodic", "radical_polar_crossover", "anion_initiated"], "electrochemical_role": "Anodic oxidation of thiocyanate anion to thiocyanate radical (via (SCN)2 / (SCN)3-); subsequent anodic SET oxidation of the C-centered radical adduct to a carbocation; cathodic reduction of protons to H2.", "key_intermediates": [{"name": "thiocyanate radical (SCN•) / (SCN)2", "smiles": "[S]C#N", "role": "reactive"}, {"name": "C-centered benzylic radical from SCN addition to alkene (intermediate I)", "smiles": null, "role": "transient"}, {"name": "benzylic carbocation after second SET (intermediate II)", "smiles": null, "role": "reactive"}, {"name": "protonated oxazine after intramolecular O-attack (intermediate III)", "smiles": null, "role": "transient"}, {"name": "4-methyl-2-phenyl-4-(thiocyanatomethyl)-4H-benzo[d][1,3]oxazine (3a)", "smiles": "N#CSCC1(C)c2ccccc2N=C(c2ccccc2)O1", "role": "reactive"}], "electron_flow": "At the anode, SCN- is oxidized to SCN• (via (SCN)2), which adds to the alkene of 1a to give C-radical I; I undergoes a second anodic SET to carbocation II, which is trapped by intramolecular nucleophilic attack of the amide oxygen and deprotonated to give 3a, while protons are reduced to H2 at the Pt cathode.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Reaction completely inhibited (only trace 3a), supporting a radical pathway."}, {"name": "1,1-diphenylethylene", "smiles": "C(=C)(c1ccccc1)c1ccccc1", "purpose": "radical_trap", "observation": "Trapping product 3a' (Ph2C=CH-SCN type adduct) detected by GC-MS, confirming SCN radical."}, {"name": "Cyclic voltammetry of 1a, NH4SCN, H2SO4", "smiles": null, "purpose": "redox_probe", "observation": "Oxidation peak of 2 (NH4SCN) at 1.48 V is lower than 1a at 2.27 V; with acid, a second oxidation peak of SCN- appears, indicating preferential and stepwise oxidation of thiocyanate."}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_other", "cyclic_voltammetry"], "evidence_strength": "medium", "notes": "Role of H2SO4 is critical: without acid, 1a is not oxidized and SCN- shows only one oxidation event; acid enables secondary oxidation of thiocyanate (analogous to halide (X3-)/(X2-) behavior). The amide oxygen (not nitrogen) acts as the intramolecular nucleophile, giving the 1,3-oxazine regiochemistry."}
